Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
confusion
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ right-handed man with history notable
for type II diabetes mellitus (on insulin), hypertension,
hyperlipidemia, and prior traumatic ICH (ca. ___ presenting 
for
evaluation of multiple episodes of agitation followed by
confusion. Family report that patient has been feeling weak for 
the last 2 days and on the morning of the event he had a 
argument with his wife about not wanting to eat breakfast. That 
evening he was at his normal self, went to the park to walk and 
walked home with his wife. After evening routine he went to bed 
around 10:30 ___ and woke up
an hour later frustrated-started saying " discomfort and I am
going to die", was banging on his chest and on the sides and 
made
his wife leave the room. After 15 minutes he was tired and calm
down. He went to sleep for a few minutes and would wake up and
the same event would repeat. This happened multiple times, at
which time the wife called her son and daughter-in-law. They
both came to the patient's house at 4 AM, he was found to be
agitated, disoriented and not following commands. They got him
in the car to take to his son's place-he kept on repeating" 
whose
car is this" the entire way and finally fell asleep in the car. 
They woke him up and took him into the house and he went to
sleep. He woke up around 10:30 AM and was found to be
disoriented, not following commands(when asked to put his pants
on would say okay and not actually do it) walking around the
house looking to go out. He put his pants the wrong way and was
standing in the backyard confused. He was helped inside and
while eating breakfast, he returned to his baseline mental
status. At that time they noticed that he soiled his
pants(probably during the breakfast), he was able to go upstairs
and take a shower and behave normally after. No similar issues
in the past. He has no recollection of the event and the last
thing he remembers is going to bed.
Mr. ___ family reports that he last had an episode of
comparable confusion, without similar agitation, following a
motor vehicle accident around ___. His course at the time was
complicated by an unspecified intracerebral hemorrhage but, as
far as his family is aware, no note of seizures. Mr. ___ has
otherwise not had interval episodes of confusion, and denies
periodic dysgeusia, dysosmia, gastric rising, déjà ___, or jamais
___. He does not have a prior history of febrile seizures. He has
similarly not had a history of violent behaviors or unexplained
falls during sleep.

 
Past Medical History:
Type II diabetes mellitus (on insulin)
Hypertension
Hyperlipidemia
Traumatic ICH (ca. ___ s/p MVC

 
Social History:
___
Family History:
Notable for "shaking" followed by "fainting spells" in his
sister, apparently not on medical therapy.

 
Physical Exam:
On admission:
Vitals: T: 98.0  P: 102  R: 20  BP: 113/82  SpO2: 97% RA
 General: Awake, largely cooperative, in NAD.
 HEENT: NC/AT, no scleral icterus noted.
 Neck: Supple, no nuchal rigidity.
 Pulmonary: No tachypnea or increased WOB.
 Cardiac: Warm, well-perfused.
 Abdomen: Soft, ND.
 Extremities: No ___ edema.
 Skin: No rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Provides sparse history,
which is largely obtained from his daughter. ___, able to
perform serial 7 subtractions without difficulty. Language is
fluent with intact comprehension per family and interpreter. 
Able
to follow midline and appendicular commands with some
encouragement. No apparent hemineglect.

-Cranial Nerves:
 II, III, IV, VI: PERRL 3 to 2 mm ___. EOMI without nystagmus. 
VFF
to confrontation.
 V: Facial sensation intact to light touch.
 VII: Subtle L NLFF.
 VIII: Hearing intact to conversation.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii bilaterally.
 XII: Tongue protrudes in midline.

-Motor: No pronator drift bilaterally. No adventitious 
movements,
such as tremor, noted. Normal tone at wrists and elbows
bilaterally.
   Delt Bic Tri WrE FFl FE IP Quad Ham TA 
 L  5    ___   ___   5    5  5  
 R  5    ___   ___   5    5  5  

-Sensory: No deficits to light touch or pinprick throughout.

-DTRs:
   Bi Tri ___ Pat Ach
 L  1  1    1    1   0
 R  1  1    1    1   0

-Coordination: No intention tremor or dysmetria on ___
bilaterally. No dysdiadochokinesia.

-Gait: Narrow-based and steady with mildly unsteady tandem.

Discharge Exam:
Neurologic:
-Mental Status: Alert, oriented x 3. Provides sparse history,
which is largely obtained from his daughter. inattentive but 
able
to follow 2 step commands. Language is fluent with intact
comprehension per family and interpreter. Able to follow midline
and appendicular commands . No apparent hemineglect.

-Cranial Nerves:
 II, III, IV, VI: PERRL 3 to 2 mm ___. EOMI without nystagmus. 
VFF
to confrontation.
 V: Facial sensation intact to light touch.
 VII: Subtle L NLFF.
 VIII: Hearing intact to conversation.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii bilaterally.
 XII: Tongue protrudes in midline.

-Motor: No pronator drift bilaterally. No adventitious 
movements,
such as tremor, noted. Normal tone at wrists and elbows
bilaterally.
   Delt Bic Tri WrE FFl FE IP Quad Ham TA 
 L  5    ___   ___   5    5  5  
 R  5    ___   ___   5    5  5  

-Sensory: No deficits to light touch or pinprick throughout.

-DTRs:
   Bi Tri ___ Pat Ach
 L  1  1    1    1   0
 R  1  1    1    1   0

-Coordination: No intention tremor or dysmetria on FNF
bilaterally. No dysdiadochokinesia.

-Gait: Narrow-based and steady with mildly unsteady tandem.

 
Pertinent Results:
___ 05:45AM BLOOD WBC-7.8 RBC-4.42* Hgb-13.1* Hct-41.3 
MCV-93 MCH-29.6 MCHC-31.7* RDW-12.1 RDWSD-41.6 Plt ___
___ 04:10PM BLOOD Neuts-73.8* Lymphs-15.9* Monos-9.2 
Eos-0.4* Baso-0.4 Im ___ AbsNeut-4.96 AbsLymp-1.07* 
AbsMono-0.62 AbsEos-0.03* AbsBaso-0.03
___ 05:45AM BLOOD Plt ___
___ 05:40AM BLOOD Glucose-226* UreaN-17 Creat-0.7 Na-141 
K-3.7 Cl-104 HCO3-24 AnGap-13
___ 05:45AM BLOOD Calcium-9.4 Phos-3.5 Mg-1.6
___ 04:10PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 06:50AM BLOOD %HbA1c-8.2* eAG-189*
___ 05:40AM BLOOD Glucose-226* UreaN-17 Creat-0.7 Na-141 
K-3.7 Cl-104 HCO3-24 AnGap-13
 
Brief Hospital Course:
He was admitted for episode of altered mental status, Unclear 
etiology. Differential includes seizures(although it is atypical 
to have for a prolonged duration but possible in the setting of 
prior frontal TBI) vs due to hypoglycemia? (Symptoms improved 
after eating breakfast) vs night terrors or parasomnia vs 
psychiatric vs other

No infectious or metabolic derangement noted so far. CT head
with bifrontal right> left encephalomalacia. EEG overnight with 
capture of sleep showed Bitemporal slowing R>L without 
epileptiform discharges.

His Blood sugars during his admission were checked and were 
borderline low despite holding his home insulin and home PO 
medication regimen, suggesting his episode may have occurred due 
to blood glucose fluctuations. ___ Diabetic center was 
consulted who recommended discontinuing glimepiride, continuing 
metformin and Januvia. Recommended patient staying overnight to 
monitor sugars on sliding scale to determine a lantus dose but 
he wanted to be discharged home. Lantus was resumed at a lower 
dose of 10 units at bedtime. We advised patient to check Fasting 
and 2- hour postprandial blood sugars, to maintain a diary and 
follow up with Diabetic center in ___ weeks. We also advised 
against taking insulin if BG is <100. 

We asked patient to stay in hospital for ongoing glucose 
monitoring but he declined. As such he will need close follow-up 
with ___ this week.
We also spoke to the ___ NP at ___ and she the 
transitional care Nurse ___ reach out to patient to arrange 
follow up.

Transitional issues:
- We will call ___ to confirm he follows this week as 
outpatient given that patient is not amenable to staying in 
hospital for ongoing glucose monitoring. 
- Adjust lantus dose based on patients home Blood glucose 
readings.
- Follow-up with PCP ___ ___ weeks and ___ in 1 week
- NO need for neurology follow-up at this time
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 1000 mg PO BID 
2. glimepiride 4 mg oral BID 
3. Lantus Solostar U-100 Insulin (insulin glargine) 28 units 
subcutaneous QHS 
4. Januvia (SITagliptin) 100 mg oral DAILY 
5. Omeprazole 20 mg PO DAILY 
6. Atorvastatin 20 mg PO QPM 
7. Lisinopril 5 mg PO DAILY 

 
Discharge Medications:
1.  Lantus Solostar U-100 Insulin (insulin glargine) 10 Units 
subcutaneous QHS  
2.  Atorvastatin 20 mg PO QPM  
3.  Januvia (SITagliptin) 100 mg oral DAILY  
4.  Lisinopril 5 mg PO DAILY  
5.  MetFORMIN (Glucophage) 1000 mg PO BID  
6.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Agitation
# Suspected hypoglycemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted for episode of confusion and agitation. This 
was initially suspected to be due to possible seizure or due to 
low blood sugars. You underwent blood tests and CT scan of your 
head which did not show any new abnormality. We did see changes 
on the head scan consistent with your head injury ___ years ago. 
You also underwent a test called EEG to look at your brain 
activity which was normal. We found no signs of seizure activity 
overnight while you were sleeping. We did notice your glucose 
was low and so you were seen by Diabetes specialist from ___ 
___ and they adjusted your medication, Insulin(lantus) dose 
changed to 10 Units subQ at Bedtime and discontinued 
Glimeperide. Please continue your other home medications as 
previous.

Please check your blood sugars fasting and 2 hours after lunch 
and maintain a dairy. Please follow up with ___ in ___ 
weeks, call ___ to make an appointment. You can call 
the diabetic education nurse at ___ -___.

MEDICATION CHANGES ON THIS ADMISSION:

LANTUS NIGHT TIME DECREASED TO 10U
STOP GLIMEPIRIDE

Yours sincerely,
___ Neurology team
 
Followup Instructions:
___